US06960474B2
A solution of n-BuLi (83 mL, 133.0 mmol, 1.2 eq, 1.6 M in hexanes) was added to a stirred solution of 2-methylfuran (10 mL, 110.8 mmol, 1 eq) in THF (85 mL) at 0° C. under inert atmosphere. The reaction mixture was stirred for 4 h at room temperature then cooled to 0° C. Ethylene oxide (8.3 mL, 166.3 mmol, 1.5 eq) was added dropwise and the reaction mixture was allowed to warm to room temperature overnight. After quenching with saturated aqueous NH4Cl, the resulting layers were separated and the aqueous layer was extracted with Et2O (2×). The combined organic layers were dried over Na2SO4 and concentrated under reduced pressure. Distillation at atmospheric pressure (170-185° C.) gave 10.13 g (80.3 mmol, 72%) of 5-methyl-2-furanethanol (2f(2)) as a light yellow oil:

reactant | n-BuLi | 133.0 mmol, 1.6 M, 83 mL, 1.2 eq | [Li]CCCC
reactant | 2-methylfuran | 110.8 mmol, 10 mL, 1 eq | CC=1OC=CC1 | C5H6O
reactant | Ethylene oxide | 166.3 mmol, 8.3 mL, 1.5 eq | C1CO1 | C2H4O
solvent | THF | 85 mL | C1CCOC1 | C4H8O
product | 5-methyl-2-furanethanol | 80.3 mmol, 10.13 g, 72% | CC1=CC=C(O1)CCO | C7H10O2
